US05162523
1-Ethyl-6-fluoro-1,4-dihydro-7-[4[(1-formyl-4-piperidinyl)methyl]-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A mixture of norfloxacin (0.96 g, 3 mmol), 4-bromomethyl-1-formylpiperidine (1.26 g 6.1 mmol) and triethylamine (0.44 g, 0.6 mL, 4.3 mmol) in anhydrous dimethylformamide (15 mL) was heated at 100° C. for 2 hours. The solvent was removed under high vacuum and the residue was dissolved in methanol, filtered and precipitated by the addition of diethyl ether to give the product as a white solid (1.0 g, 75% yield).

reactant | norfloxacin | 3 mmol, 0.96 g | CCN1C=C(C(=O)C2=C1C=C(C(=C2)F)N3CCNCC3)C(=O)O | C16H18FN3O3
reactant | 4-bromomethyl-1-formylpiperidine | 6.1 mmol, 1.26 g | BrCC1CCN(CC1)C=O | C7H12BrNO
reactant | triethylamine | 4.3 mmol, 0.6 mL, 0.44 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[4[(1-formyl-4-piperidinyl)methyl]-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 1.0 g, 75% yield | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC1CCN(CC1)C=O)F)=O)C(=O)O | C23H29FN4O4
